Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Penicillins / lisinopril / gleuten
 
Attending: ___
 
Chief Complaint:
Pelvic organ prolapse 
 
Major Surgical or Invasive Procedure:
VAGINAL HYSTERECTOMY WITH ANTERIOR POSTERIOR REPAIR; UTEROSACRAL 
LIGAMENT SUSPENSION; CYSTOSCOPY; PERINEORRHAPHY 

 
History of Present Illness:
From consultation with Dr. ___ on ___:

___ is a ___ woman who comes to the office 
today accompanied by her wife.  She was previously followed by 
my partner, Dr. ___, but comes seeking a second 
opinion.  She was first seen by him in ___ for overactive 
bladder symptoms.  She had a cystoscopy, which revealed no major 
abnormalities.  Then, she returned to see him in ___ because of 
voiding dysfunction symptoms.  She was found to have significant 
prolapse, and a pessary trial was scheduled.  She was fit with a 
ring pessary with support #3 in ___ and returned at 
the end of ___ for a followup visit.  At that time, she 
was experiencing some shifting in the pessary that at times 
affect her bowel movements and urination.  A larger pessary, 
ring pessary with support #4, was inserted.  However, the 
patient is currently using the #3 size and feels that it is 
helping with her symptoms.  At the last visit, the plan was for 
preop urodynamic testing and surgical repair of the prolapse, 
which appeared to be progressing over time.

The patient herself states that her main concern is with the 
urinary frequency and nocturia.  With the pessary in place, the 
frequency and nocturia have improved about 50%.  She also has 
tapered down on the alcohol and has started acupuncture in the 
last month and has found that her symptoms of urinary frequency 
has been much better.  She does have irritable bowel syndrome 
and has been followed by GI and seen by multiple 
gastroenterologists in the past.  She denies significant bulge 
or tissue protrusion symptoms.  She would like to discuss what 
her options are, as she is not keen on surgery at this time.  
She has a trip to ___ ___ coming up in a couple of months 
and then will be in ___ for a while coming back to ___ 
only next year in the ___ time.
 
Past Medical History:
Past Medical History:
CERVICAL RADICULOPATHY
COLONIC POLYPS
FATTY LIVER DISEASE
GASTROESOPHAGEAL REFLUX
HOT FLASHES
HYPERCHOLESTEROLEMIA
LACTOSE INTOLERANCE
MENOPAUSAL
SPINAL STENOSIS
STRESS INCONTINENCE
___ ESOPHAGUS

Past Surgical History:
Cataract surgery
Oopherectomy 

Allergies:
Penicillin 
 
Social History:
___
Family History:
Mother DEMENTIA 
  
Father CORONARY ARTERY DISEASE 
  LUNG CANCER 
   

 
Physical Exam:
General: no acute distress, alert and oriented
Pulm: normal respiratory effort, speaking in full sentences
Abd: soft, minimally tender in lower quadrants without rebound 
or guarding 
Back: superficial tenderness over left flank and hip, no
ecchmyosis or erythema
GU: pad with minimal spotting
Ext: non-tender, no edema
 
Pertinent Results:
None
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology 
service after undergoing total vaginal hysterectomy, uterosacral 
ligament suspension,
anterior/posterior colporrhaphy, cystoscopy for pelvic organ 
prolapse. Please see the operative report for full details.
Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with hydromorphone and toradol.

On post-operative day 1, her urine output was adequate and her 
Foley was removed with a voiding trial, the results of which are 
as follows:
1. Instilled 300 mL, voided 0 mL with 275 mL residual.

Her Foley catheter was replaced and she was instructed in its 
care. Her diet was advanced without difficulty and she was 
transitioned to oral acetaminophen, ibuprofen, and oxycodone.
By post-operative day 1, she was tolerating a regular diet, 
ambulating independently, and pain was controlled with oral 
medications. She was then discharged home in stable condition 
with outpatient follow-up scheduled.

 
Medications on Admission:
1. Clonazepam 0.5 mg PO PRN at bedtime for sleep
2. Estradiol 0.1 mg/gram cream, 5 mg vaginally at bedime
3. Losartan 25 mg PO daily 
4. Omeprazole 20 mg PO twice daily'
5. Acetaminophen 1000 mg PO every 6 hours PRN for pain
6. Ibuprofen 600 mg PO every 4 hours PRN for pain

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
2.  Docusate Sodium 100 mg PO BID:PRN constipation 
3.  Ibuprofen 400-600 mg PO Q6H:PRN Pain 
4.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO DAILY UTI 
prophylaxis  
Until foley removal  
5.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q4H:PRN pain 
6.  ClonazePAM 0.5 mg PO QHS sleep 
7.  Losartan Potassium 25 mg PO DAILY  
8.  Omeprazole 20 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pelvic organ prolapse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___,

___ were admitted to the gynecology service after your 
procedure. ___ have recovered well and the team believes ___ are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* ___ may eat a regular diet.
* ___ may walk up and down stairs.

Incision care:
* ___ may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.

*) ___ were discharged home with a Foley (bladder) catheter and 
received teaching for it prior to discharge. ___ were also given 
a prescription for Macrobid (nitrofurantoin) antibiotic to 
prevent a UTI while ___ have the catheter. Please take as 
prescribed. ___ will get phone call in next day to schedule a 
follow-up appointment in Dr. ___ for catheter removal. 
This will likely be next ___. Please also keep your routine 
post-operative follow-up appointment listed below. 

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___